US07960404B2
Stage 2: 4-(8-Phenyl-1,4-dioxaspiro[4,5]dec-8-yl)pyrrolidine hydrochloride
The aminonitrile 8-pyrrolidin-1-yl-1,4-dioxaspiro[4,5]decane-8-carbonitrile (10.0 g, 42.6 mmol), dissolved in THF (90 ml), was added under argon and with ice cooling within 15 min to a 1.82M phenyl magnesium chloride solution in THF (70 ml, 0.127 mol) and the mixture was stirred for 16 h at room temperature. The reaction mixture was processed by adding saturated ammonium chloride solution (100 ml) with ice cooling and was then extracted with diethyl ether (3×100 ml). The organic phase was extracted by shaking with water (70 ml) and saturated NaCl solution (70 ml) and concentrated to small volume. A yellow crystal paste (11.8 g) was retained which in addition to the desired product still contained the ketal 8-pyrrolidin-1-yl-1,4-dioxaspiro[4,5]decane-8-carbonitrile. The crude product was dissolved in ethyl methyl ketone (70 ml) and ClSiMe3 (8 ml, 0.063 mol) was added with ice cooling. After a reaction time of 6 h the hydrochloride 4-(8-phenyl-1,4-dioxaspiro[4,5]dec-8-yl)pyrrolidine hydrochloride was able to be isolated as a white solid in a yield of 43% (5.9 g).

reactant | phenyl magnesium chloride | 1.82M | C1(=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
reactant | ClSiMe3 | 0.063 mol, 8 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | hydrochloride 4-(8-phenyl-1,4-dioxaspiro[4,5]dec-8-yl)pyrrolidine hydrochloride | Cl.C1(=CC=CC=C1)C1(CCC2(OCCO2)CC1)C1CCNC1.Cl
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 0.127 mol, 70 ml | C1CCOC1 | C4H8O
product | 4-(8-Phenyl-1,4-dioxaspiro[4,5]dec-8-yl)pyrrolidine hydrochloride | yield of 43% | Cl.C1(=CC=CC=C1)C1(CCC2(OCCO2)CC1)C1CCNC1 | InChI=1S/C18H25NO2.ClH/c1-2-4-15(5-3-1)17(16-6-11-19-14-16)7-9-18(10-8-17)20-12-13-21-18;/h1-5,16,19H,6-14H2;1H
